US08466201B2
2-Amino-N-(2-hydroxyethyl)-benzene sulfonamide (V)
N-(2-Hydroxyethyl)-2-nitrobenzene sulfonamide (1.25 g, 5.08 mmol) was dissolved in methanol (50 ml) and placed under an atmosphere of nitrogen prior to the addition of 10% Pd/C (10 Wt %, 125 mg) in one portion. The reaction was evacuated, placed under an atmosphere of hydrogen (1 bar) and stirred vigorously overnight. The reaction was filtered through celite and the filtrate was concentrated in vacuo to afford the named product (0.88 g, 80%); LCMS Rt=2.05 min, m/z (ES+) 217 (M+H).

reactant | N-(2-Hydroxyethyl)-2-nitrobenzene sulfonamide | 5.08 mmol, 1.25 g | OCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O5S
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 125 mg | [Pd] | Pd
product | 2-Amino-N-(2-hydroxyethyl)-benzene sulfonamide | 0.88 g, 80% | NC1=C(C=CC=C1)S(=O)(=O)NCCO | C8H12N2O3S
